US07176242B2
Step 4: N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-6-[(methylsulfonyl)methyl]nicotinamide
To a stirred solution of 6-[(methylsulfonyl)methyl]nicotinic acid (181 mg), diisopropylethylamine (116 mg), and HBTU (341 mg) in methylene chloride (5 mL) was added a mixture of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol (326 mg) and N,N-diisopropylethylamine (233 mg) in methylene chloride (5 mL). The mixture was stirred at room temperature for 15 h and concentrated under reduced pressure. The residue was diluted with ethyl acetate (50 mL), washed with saturated sodium bicarbonate, and brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica gel, 5:95 to 10:90 methanol/methylene chloride) provided 165 mg of the title compound: ESI MS m/z 532 [M+H]+.

reactant | 6-[(methylsulfonyl)methyl]nicotinic acid | 181 mg | CS(=O)(=O)CC1=NC=C(C(=O)O)C=C1 | C8H9NO4S
reactant | diisopropylethylamine | 116 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 341 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | 326 mg | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
reactant | N,N-diisopropylethylamine | 233 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-6-[(methylsulfonyl)methyl]nicotinamide | 165 mg | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C2=CN=C(C=C2)CS(=O)(=O)C)=O)C=C(C1)F | C27H31F2N3O4S
